US07230020B2
Reaction of 5-amino-indan-1-one (75 mg, 0.50 mmol) in THF (6 mL) with 4-propylbenzoyl chloride (108 μL, 0.65 mmol) in presence of triethylamine (90 μL, 0.65 mmol) according to method A gave N-(1-oxo-indan-5-yl)-4-propyl-benzamide (94 mg, 0.32 mmol, 64% yield) as a white powder after purification on silica gel (eluent EtOAc/DCM 0/10 to 1/9).

reactant | 5-amino-indan-1-one | 0.50 mmol, 75 mg | NC=1C=C2CCC(C2=CC1)=O | C9H9NO
reactant | 4-propylbenzoyl chloride | 0.65 mmol, 108 μL | C(CC)C1=CC=C(C(=O)Cl)C=C1 | C10H11ClO
reactant | triethylamine | 0.65 mmol, 90 μL | C(C)N(CC)CC | C6H15N
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | N-(1-oxo-indan-5-yl)-4-propyl-benzamide | 0.32 mmol, 94 mg, 64% yield | O=C1CCC2=CC(=CC=C12)NC(C1=CC=C(C=C1)CCC)=O | C19H19NO2
